US05981572
N-[3-(2,3-Dihydro-benzofuran-4-yl)-propyl]-acetamide
A solution of the N-[3-(7-chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide, (78 mg) in ethanol (5 ml) was hydrogenated over palladium (10%; 20 mg) over 64 h. The catalyst was filtered off and the filtrate concentrated in vacuo. The residue was purified by column chromatography, eluting with dichloromethane/methanol 50:1 gave the title compound as a colourless solid (54 mg) mp 66-67° C.

reactant | N-[3-(7-chloro-2,3-dihydro-benzofuran-4-yl)-propyl]-acetamide | 78 mg | ClC1=CC=C(C=2CCOC21)CCCNC(C)=O | C13H16ClNO2
solvent | ethanol | 5 ml | C(C)O | C2H6O
catalyst | palladium | 20 mg | [Pd] | Pd
product | N-[3-(2,3-Dihydro-benzofuran-4-yl)-propyl]-acetamide | 54 mg | O1CCC2=C1C=CC=C2CCCNC(C)=O | C13H17NO2
